US04120864
To 6.0 g. (0.0382 mole) of 3-mercapto-4-n-butyl-1,2,4-triazole dissolved in 50 ml. of ether was added 2.5 g. (0.248 mole) of triethylamine and then 2.5 g (0.0438 mole) of methyl isocyanate. The resulting orange-brown solution was allowed to stand overnight. The solid which formed was filtered and washed twice with 50 ml. of ether to give 4.7 g. (57% yield) of 3-methyl-carbamoylmercapto-4-n-butyl-1,2,4-triazole melting at 112°-114° C.

reactant | 3-mercapto-4-n-butyl-1,2,4-triazole | 0.0382 mole | SC1=NN=CN1CCCC | C6H11N3S
reactant | triethylamine | 0.248 mole | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 0.0438 mole, 2.5 g | CN=C=O | C2H3NO
solvent | ether | CCOCC | C4H10O
product | 3-methyl-carbamoylmercapto-4-n-butyl-1,2,4-triazole | 57% yield | CC1=NN=C(N1CCCC)SC(N)=O | C8H14N4OS
